US07056934B2
2-Hydroxy-4-hydroxymethylbenzoic acid
A mixture of 3-hydroxybenzylalcohol (10 g, 80 mmol) and potassium carbonate (33.35 g, 240 mmol) were stirred under carbon dioxide in a sealed vessel at 1500-2000 psi and 150° C. for 18 hours. The cooled residue was dissolved in water, acidified to pH 1 using concentrated hydrochloric acid and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4) and evaporated under reduced pressure. The product was recrystallised from cyclohexane to afford the title compound, 740 mg.

reactant | 3-hydroxybenzylalcohol | 80 mmol, 10 g | OC=1C=C(CO)C=CC1 | C7H8O2
reactant | potassium carbonate | 240 mmol, 33.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-Hydroxy-4-hydroxymethylbenzoic acid | OC1=C(C(=O)O)C=CC(=C1)CO | C8H8O4
